US05998424
2-Methyl-4-(2-aminosulfonylphenyl)aniline
This compound was prepared by the method described for 2-fluoro-4-(2 -aminosulfonylphenyl)aniline described in EXAMPLE 8 by starting with 2-methyl-4-bromoaniline rather than 2-fluoro-4-bromoaniline.

reactant | 2-fluoro-4-(2 -aminosulfonylphenyl)aniline | FC1=C(N)C=CC(=C1)C1=C(C=CC=C1)S(=O)(=O)N | C12H11FN2O2S
reactant | 2-methyl-4-bromoaniline | CC1=C(N)C=CC(=C1)Br | C7H8BrN
reactant | 2-fluoro-4-bromoaniline | FC1=C(N)C=CC(=C1)Br | C6H5BrFN
product | 2-Methyl-4-(2-aminosulfonylphenyl)aniline | CC1=C(N)C=CC(=C1)C1=C(C=CC=C1)S(=O)(=O)N | C13H14N2O2S
